US07132539B2
Preparation of 2-{4-[2-amino-3-(4-fluorophenyl)-propionyl]-3-methoxymethyl-piperazin-1-yl}-N-methyl-3-naphthalen-2-yl-propionamide HCl (66):
{1-(4-Fluoro-benzyl)2-[2-methoxymethyl-4-(1-methylcarbamoyl-2-naphthalen-2-yl-ethyl)-piperazin-1-yl]-2oxo-ethyl}-carbamic acid tert-butyl ester, 65, is dissolved in 4M HCl in dioxane (60 mL). The reaction mixture is stirred for 90 minutes then 1,2-dichloroethane (60 mL) is added. The solution is concentrated in vacuo to afford 3.6 g (98% yield) of the desired product.

reactant | {1-(4-Fluoro-benzyl)2-[2-methoxymethyl-4-(1-methylcarbamoyl-2-naphthalen-2-yl-ethyl)-piperazin-1-yl]-2oxo-ethyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC(C(=O)N1C(CN(CC1)C(CC1=CC2=CC=CC=C2C=C1)C(NC)=O)COC)CC1=CC=C(C=C1)F)=O | C34H43FN4O5
reactant | 1,2-dichloroethane | 60 mL | ClCCCl | C2H4Cl2
solvent | HCl | 4M | Cl | ClH
solvent | dioxane | 60 mL | O1CCOCC1 | C4H8O2
product | 2-{4-[2-amino-3-(4-fluorophenyl)-propionyl]-3-methoxymethyl-piperazin-1-yl}-N-methyl-3-naphthalen-2-yl-propionamide HCl | 3.6 g, 98% yield | Cl.NC(C(=O)N1C(CN(CC1)C(C(=O)NC)CC1=CC2=CC=CC=C2C=C1)COC)CC1=CC=C(C=C1)F | InChI=1S/C29H35FN4O3.ClH/c1-32-28(35)27(17-21-7-10-22-5-3-4-6-23(22)15-21)33-13-14-34(25(18-33)19-37-2)29(36)26(31)16-20-8-11-24(30)12-9-20;/h3-12,15,25-27H,13-14,16-19,31H2,1-2H3,(H,32,35);1H
